US06787544B2
In 0.5 mL of 47% aqueous solution of hydrogen bromide is dissolved 0.05 g of 3-methoxy-2-pyrazinecarboxamide-4-oxide obtained according to the method described in literature [Eur. J. Med. Chem., 15(2), 157-163 (1980)]. The solution is stirred at 45° C. for 2 hours. The deposited crystals are collected by filtration and washed successively with ethanol and diethyl ether to obtain 0.03 g of 3-hydroxy-2-pyrazinecarboxamide-4-oxide.

reactant | 3-methoxy-2-pyrazinecarboxamide-4-oxide | 0.05 g | COC=1C(=NC=C[N+]1[O-])C(=O)N | C6H7N3O3
solvent | hydrogen bromide | Br | BrH
product | 3-hydroxy-2-pyrazinecarboxamide-4-oxide | 0.03 g | OC=1C(=NC=C[N+]1[O-])C(=O)N | C5H5N3O3
